US07504413B2
(3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[([3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dimethyl phosphate
To a solution of N-((1S)-1-{[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]methyl}-3-hydroxypropyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide (500 mg, 1.04 mmol) in dry CH2Cl2 (10 mL) under N2, was added dimethyl chlorophosphate (748 mg, 5.18 mmol) followed by DMAP (660 mg, 5.41 mmol) at rt. After 30 min, TLC (95:5 EtOAc/MeOH) showed ˜50% conversion, so an additional portion of dimethyl chlorophosphate (748 mg, 5.18 mmol) and DMAP (660 mg, 5.41 mmol) were added. After an additional 30 min, the reaction was quenched with saturated aqueous NH4Cl and diluted with CH2Cl2. The aqueous layer was back-extracted with CH2Cl2 and the combined organics were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (100% EtOAc; isocratic on Analogix) to give 475 mg (77%) of the title compound as a pale yellow oil. LC/MS (ES) m/e 592.4 (M+H)+. Note that the product was contaminated with ˜1 eq of the starting dimethyl chlorophosphate/dimethyl hydrogenphosphate reagent and carried on as is.

reactant | N-((1S)-1-{[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]methyl}-3-hydroxypropyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide | 1.04 mmol, 500 mg | C(C)(=O)C=1N(C=C(N1)C1=CC=C(C=C1)C[C@@H](CCO)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O)C | C26H30ClN3O4
reactant | dimethyl chlorophosphate | 5.18 mmol, 748 mg | P(=O)(OC)(OC)Cl | C2H6ClO3P
reactant | EtOAc MeOH | CCOC(=O)C.CO
reactant | dimethyl chlorophosphate | 5.18 mmol, 748 mg | P(=O)(OC)(OC)Cl | C2H6ClO3P
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.41 mmol, 660 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 5.41 mmol, 660 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[([3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dimethyl phosphate | 475 mg, 77% | P(=O)(OCC[C@H](CC1=CC=C(C=C1)C=1N=C(N(C1)C)C(C)=O)NC(=O)C1=CC(=C(C=C1)OC(C)C)Cl)(OC)OC | C28H35ClN3O7P
